Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:6]([H:7])([H:8])[H:9].[H:1][C:2]([H:3])([H:4])[C:5][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19]>>[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19],-4.44819546073
[H:1][C:2]([C:3][H:4])([H:6])/[C:10]=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16].[H:5][C:7]([H:8])[H:9]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])/[C:10]=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16],-5.04403904926
[C:7]([H:8])[O:9][H:10].[H:1][O:2][C:3][C:4]#[C:5][H:6]>>[H:1][O:2][C:3]#[C:4]/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10],-5.12242738204
[C:1]#[C:2][H:3].[C:4]([C:5]#[C:6][H:7])[O:8][H:9]>>[C:1]=[C:2]([H:3])[C:4]([C:5]#[C:6][H:7])[O:8][H:9],-3.44471518121
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]#[C:12][H:13].[H:11]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12][H:13],-1.82704486755
[H:1][O:2][C:3]#[C:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3]#[C:4][C:5]#[C:7][C:8]([H:9])([H:10])[H:11].[H:6],1.62615348621
[H:1][C:2]([H:3])[O:4][C:5]#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][C:2]([H:3])[O:4][C:5]#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],4.60450884186
[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9]>>[C:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9].[O:1]=[O:2],2.04643858686
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[O:11][H:12]>>[C:8]([H:9])([H:10])[O:11][H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7],3.61479239054
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])=[C:11]([H:12])[H:13],3.90922345192
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:8](\[H:9])[O:10][C:11]([H:12])[H:13].[H:7]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][C:11]([H:12])[H:13],-5.51701230858
[H:3].[O:1]=[C:2]=[C:4]([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.05134648051
[H:1][O:2]/[C:3]([H:4])=[C:5](/[O:6][H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2]/[C:3]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13].[H:4][C:5][O:6][H:7],4.53106962448
[H:1][C:2]#[C:3][C:4]([H:5])[H:6]>>[C:3]=[C:4]([H:5])[H:6].[H:1][C:2],8.3415378727
[C:3]([H:4])(=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-2.79657049449
[C:7]([H:8])([H:9])([C:10]([H:11])[H:12])[H:16].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])=[C:13]([H:14])[H:15]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-1.33518528537
[C:8][H:9].[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])[H:7]>>[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])([H:7])[C:8][H:9],-4.44431479696
[H:1][O:2][C:3]([O:4][H:5])([C:6]([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:9]([H:10])=[C:11]([H:12])[H:13].[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[H:8],1.72635322034
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2][O:3]/[C:4]=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:5],5.23759898255
[H:1][C:2]([H:3])=[C:4]=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:5]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-2.8469911379500004
[C:5]([H:6])=[C:10]([H:11])[H:12].[H:1][C:2]([H:3])=[C:4]=[C:8]([H:7])[H:9]>>[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-2.22735345883
[H:16].[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16],-1.94593286801
[O:1][O:2][C:3][H:4]>>[O:1].[O:2]=[C:3][H:4],-0.65912319401
[O:1]=[C:2]([C:3]([H:4])[O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:8].[O:1]=[C:2]([C:3]([H:4])[O:5][C:6][H:7])[C:9]([H:10])([H:11])[H:12],4.6239569047
[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])=[C:12]([H:13])[H:14].[H:1][C:2]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])=[C:12]([H:13])[H:14],-4.99820576154
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[O:10][H:11]>>[H:9].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:10][H:11],3.75537663943
[C:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][O:4][H:5]>>[H:1][C:2]=[C:3]([O:4][H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13],-1.49027690123
[O:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[O:1][O:2][C:3][C:4]1[C:5]([H:6])([H:7])[C:8]1([H:9])[H:10],-0.97461771304
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12][H:13]>>[H:13].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12],3.70284130086
